US04447438
2.5 ml of acetic acid and then 1.4 ml of an aqueous 40% formaldehyde solution were slowly added with stirring at 0° to 5° C. under an inert atmosphere to 2.5 ml of an aqueous 35% dimethylamine solution and then a solution of 5.5 g of 4-(1-benzyl-piperidin-3-yl)-1H-indole in 25 ml of acetic acid was added to the mixture. The mixture was stirred at room temperature for 90 minutes and was then diluted with water. Sodium hydroxide was added to the mixture to make it basic and the mixture was filtered. The recovered product was washed with water, dried under reduced pressure and crystallized from benzene to obtain 3 g of N,N-dimethyl-4-(1-benzyl-piperidin-3-yl)-1H-indole-3-methanamine melting at ≃150° C.

reactant | formaldehyde | C=O | CH2O
reactant | dimethylamine | CNC | C2H7N
reactant | 4-(1-benzyl-piperidin-3-yl)-1H-indole | 5.5 g | C(C1=CC=CC=C1)N1CC(CCC1)C1=C2C=CNC2=CC=C1 | C20H22N2
reactant | Sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | acetic acid | 2.5 ml | C(C)(=O)O | C2H4O2
product | N,N-dimethyl-4-(1-benzyl-piperidin-3-yl)-1H-indole-3-methanamine | 3 g | CN(CC1=CNC2=CC=CC(=C12)C1CN(CCC1)CC1=CC=CC=C1)C | C23H29N3
